US07951951B2
1.34 g (5.56 mmol) of 1-[(6-chloropyridin-3-yl)methyl]-3-hydroxypyrrolidin-2,5-dione (XI-1a) and 674 μl (8.34 mmol) of pyridine are dissolved in 15 ml of dichloromethane, and 1.12 g (5.56 mmol) of bromoacetyl bromide are added at 0° C. The mixture is stirred at room temperature for 30 minutes, and ice-water is then added. The organic is washed successively with saturated sodium bicarbonate solution and saturated sodium chloride solution, dried over magnesium sulphate and concentrated under reduced pressure. Purification of the residue by column chromatography on silica gel (silica gel 60, Merck, particle size: 0.04 to 0.063 mm) using the mobile phase mixture dichloromethane:methanol (97:3) gives 1.44 g (55% of theory) of 1-[(6-chloropyridin-3-yl)methyl]-2,5-dioxopyrrolidin-3-yl bromoacetate.

reactant | 1-[(6-chloropyridin-3-yl)methyl]-3-hydroxypyrrolidin-2,5-dione | 5.56 mmol, 1.34 g | ClC1=CC=C(C=N1)CN1C(C(CC1=O)O)=O | C10H9ClN2O3
reactant | pyridine | 8.34 mmol, 674 μl | N1=CC=CC=C1 | C5H5N
reactant | bromoacetyl bromide | 5.56 mmol, 1.12 g | BrCC(=O)Br | C2H2Br2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1-[(6-chloropyridin-3-yl)methyl]-2,5-dioxopyrrolidin-3-yl bromoacetate | 1.44 g, 55% | BrCC(=O)OC1C(N(C(C1)=O)CC=1C=NC(=CC1)Cl)=O | C12H10BrClN2O4
